US09084794B2
c) 4-cyclopropyl-9-(1-(4-(quinolin-7-yl)phenyl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 9-[1-(4-bromophenyl)ethyl]-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one (0.297 mmol) in 1,4-dioxane (1.5 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.329 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.015 mmol) and 2M aq potassium carbonate (0.892 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was irradiated in a Biotage Initiator Microwave at 150° C. for 20 min. The resulting black mixture was diluted with water (50 mL) and extracted three times with dichloromethane. The combined organic layers were treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting crude product was purified by silica gel chromatography (4-10% methanol/dichloromethane) and then by reverse phase HPLC (5-35% acetonitrile with 0.1% TFA/water with 0.1% TFA). Fractions containing the desired product were combined and the pH of the resulting mixture was adjusted to ˜11 with 30% w/v ammonium hydroxide solution. This mixture was concentrated to a minimal volume in vacuo and was then extracted three times with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Lyophilization of the resulting semi-solid from water yielded the title compound as a white solid (26 mg, 18%). MS(ES)+ m/e 442.1 [M+H]+.

reactant | 9-[1-(4-bromophenyl)ethyl]-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 0.297 mmol | BrC1=CC=C(C=C1)C(C)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C19H25BrN2O2
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.329 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 0.892 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.015 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-cyclopropyl-9-(1-(4-(quinolin-7-yl)phenyl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 26 mg, 18% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C28H31N3O2
